US04110101
Preparation of N-Ethyl-N-(1,3-dioxepan-2-ylmethyl)-α-bromoproprionamide
N-Ethyl-N-(2,2-diethoxyethyl)-α-bromoproprionamide (10 grams), butandiol-1,4 (3 ml) and trace amounts of toluenesulfonic acid are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated until no more ethanol is given off. After this time sodium carbonate (1 gram) is added to the mixture with stirring and the resulting mixture is distilled to yield the desired product N-ethyl-N-(1,3-dioxepan-2-ylmethyl)-α-bromoproprionamide.

reactant | N-Ethyl-N-(2,2-diethoxyethyl)-α-bromoproprionamide | 10 grams | C(C)N(C(C(C)Br)=O)CC(OCC)OCC | C11H22BrNO3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 1 gram | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-ethyl-N-(1,3-dioxepan-2-ylmethyl)-α-bromoproprionamide | C(C)N(C(C(C)Br)=O)CC1OCCCCO1 | C11H20BrNO3
